US07576215B2
3-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)PHENYL]PROPANOIC ACID
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 3-(4-amino-phenyl)-propionic acid. MS (ES) m/z 552.9.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 3-(4-amino-phenyl)-propionic acid | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
product | 3-[4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(CNC2=CC=C(C=C2)CCC(=O)O)C=CC1)C(F)(F)F | C33H25F3N2O3
